US04367238
3-Methyl-7-(2-chlorophenylthio)-2,3-dihydrobenzofuran-2-one was treated with potassium hydroxide in the same manner as Example 21-(10) to give crystalline 2-[2-hydroxy-3-(2-chlorophenylthio)phenyl]propionic acid, mp. 143°-145° C.

reactant | 3-Methyl-7-(2-chlorophenylthio)-2,3-dihydrobenzofuran-2-one | CC1C(OC2=C1C=CC=C2SC2=C(C=CC=C2)Cl)=O | C15H11ClO2S
reactant | potassium hydroxide | [OH-].[K+]
product | 2-[2-hydroxy-3-(2-chlorophenylthio)phenyl]propionic acid | OC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)C(C(=O)O)C | C15H13ClO3S
